* Copyright © Linear Technology Corp. 2012.  All rights reserved.
*
.subckt LT1761-1.2 1 2 3 4 5
Q1 N006 N004 1 0 PN
Q2 N004 N008 2 0 NA
Q3 N008 N003 N010 0 NP temp=27
C1 N008 N003 12p Rser=350K
Q4 N003 N003 4 0 NP 10 temp=27
R2 4 2 12K
R3 N010 2 10K
C2 5 N003 15p
Q5 5 5 N009 0 FB temp=27
R6 N009 4 102.5K
R5 3 2 20Meg
I1 3 2 1µ load
A1 3 2 2 2 2 2 N002 2 SCHMITT Vt=.8 Vh=1m trise=1m
G2 1 N003 N002 2 1.2µ
G1 1 N008 N002 2 1.2µ
R1 1 N004 600K
R8 N006 5 1.17
A2 N005 0 N008 N008 N008 N008 2 N008 VARISTOR
D3 0 N005 F
G3 0 N005 5 N006 10m
Q7 N003 N004 N006 0 P 1m
D1 1 5 X
C5 5 2 10p
C7 1 2 10p
C8 4 2 1p
R10 5 2 244K
G4 0 N005 1 0 table(1.3 1m 2.4 3m 10 4m)
G5 N005 0 N002 2 table(0 3m 1 0)
C4 1 N003 100p Rser=.01G Rpar=6G
.model PN PNP(BF=25 Cje=150p Cjc=150p Tf=10n)
.model NA NPN(BF=500K Cje=.5p Cjc=.5p Re=40)
.model NP NPN(Cje=1p Cjc=1p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=150)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.ends LT1761-1.2
*
.subckt LT1761-1.5 1 2 3 4 5
Q1 N006 N004 1 0 PN
Q2 N004 N008 2 0 NA
Q3 N008 N003 N011 0 NP temp=27
C1 N008 N003 12p Rser=350K
Q4 N003 N003 4 0 NP 10 temp=27
R2 4 2 12K
R3 N011 2 10K
C2 5 N003 15p
Q5 5 N009 N010 0 FB temp=27
R6 N010 4 106.8K
R5 3 2 20Meg
I1 3 2 1µ load
A1 3 2 2 2 2 2 N002 2 SCHMITT Vt=.8 Vh=1m trise=1m
G2 1 N003 N002 2 1.2µ
G1 1 N008 N002 2 1.2µ
R1 1 N004 600K
R8 N006 5 1.17
A2 N005 0 N008 N008 N008 N008 2 N008 VARISTOR
D3 0 N005 F
G3 0 N005 5 N006 10m
Q7 N003 N004 N006 0 P 1m
D1 1 5 X
C5 5 2 10p
C7 1 2 10p
C8 4 2 1p
R9 5 N009 56K
R10 N009 2 244K
G4 0 N005 1 0 table(1.3 1m 2.4 3m 10 4m)
G5 N005 0 N002 2 table(0 3m 1 0)
C4 1 N003 100p Rser=.01G Rpar=6G
.model PN PNP(BF=25 Cje=150p Cjc=150p Tf=10n)
.model NA NPN(BF=500K Cje=.5p Cjc=.5p Re=40)
.model NP NPN(Cje=1p Cjc=1p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=150)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.ends LT1761-1.5
*
.subckt LT1761-1.8 1 2 3 4 5
Q1 N006 N004 1 0 PN
Q2 N004 N008 2 0 NA
Q3 N008 N003 N011 0 NP temp=27
C1 N008 N003 12p Rser=350K
Q4 N003 N003 4 0 NP 10 temp=27
R2 4 2 12K
R3 N011 2 10K
C2 5 N003 15p
Q5 5 N009 N010 0 FB temp=27
R6 N010 4 106.8K
R5 3 2 20Meg
I1 3 2 1µ load
A1 3 2 2 2 2 2 N002 2 SCHMITT Vt=.8 Vh=1m trise=1m
G2 1 N003 N002 2 1.2µ
G1 1 N008 N002 2 1.2µ
R1 1 N004 600K
R8 N006 5 1.17
A2 N005 0 N008 N008 N008 N008 2 N008 VARISTOR
D3 0 N005 F
G3 0 N005 5 N006 10m
Q7 N003 N004 N006 0 P 1m
D1 1 5 X
C5 5 2 10p
C7 1 2 10p
C8 4 2 1p
R9 5 N009 116K
R10 N009 2 244K
G4 0 N005 1 0 table(1.3 1m 2.4 3m 10 4m)
G5 N005 0 N002 2 table(0 3m 1 0)
C4 1 N003 100p Rser=.01G Rpar=6G
.model PN PNP(BF=25 Cje=150p Cjc=150p Tf=10n)
.model NA NPN(BF=500K Cje=.5p Cjc=.5p Re=40)
.model NP NPN(Cje=1p Cjc=1p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=150)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.ends LT1761-1.8
*
.subckt LT1761-2.5 1 2 3 4 5
Q1 N006 N004 1 0 PN
Q2 N004 N008 2 0 NA
Q3 N008 N003 N011 0 NP temp=27
C1 N008 N003 12p Rser=350K
Q4 N003 N003 4 0 NP 10 temp=27
R2 4 2 12K
R3 N011 2 10K
C2 5 N003 15p
Q5 5 N009 N010 0 FB temp=27
R6 N010 4 106.8K
R5 3 2 20Meg
I1 3 2 1µ load
A1 3 2 2 2 2 2 N002 2 SCHMITT Vt=.8 Vh=1m trise=1m
G2 1 N003 N002 2 1.2µ
G1 1 N008 N002 2 1.2µ
R1 1 N004 600K
R8 N006 5 1.17
A2 N005 0 N008 N008 N008 N008 2 N008 VARISTOR
D3 0 N005 F
G3 0 N005 5 N006 10m
Q7 N003 N004 N006 0 P 1m
D1 1 5 X
C5 5 2 10p
C7 1 2 10p
C8 4 2 1p
R9 5 N009 255K
R10 N009 2 244K
G4 0 N005 1 0 table(1.3 1m 2.4 3m 10 4m)
G5 N005 0 N002 2 table(0 3m 1 0)
C4 1 N003 100p Rser=.01G Rpar=6G
.model PN PNP(BF=25 Cje=150p Cjc=150p Tf=10n)
.model NA NPN(BF=500K Cje=.5p Cjc=.5p Re=40)
.model NP NPN(Cje=1p Cjc=1p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=150)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.ends LT1761-2.5
*
.subckt LT1761-2.8 1 2 3 4 5
Q1 N006 N004 1 0 PN
Q2 N004 N008 2 0 NA
Q3 N008 N003 N011 0 NP temp=27
C1 N008 N003 12p Rser=350K
Q4 N003 N003 4 0 NP 10 temp=27
R2 4 2 12K
R3 N011 2 10K
C2 5 N003 15p
Q5 5 N009 N010 0 FB temp=27
R6 N010 4 106.8K
R5 3 2 20Meg
I1 3 2 1µ load
A1 3 2 2 2 2 2 N002 2 SCHMITT Vt=.8 Vh=1m trise=1m
G2 1 N003 N002 2 1.2µ
G1 1 N008 N002 2 1.2µ
R1 1 N004 600K
R8 N006 5 1.17
A2 N005 0 N008 N008 N008 N008 2 N008 VARISTOR
D3 0 N005 F
G3 0 N005 5 N006 10m
Q7 N003 N004 N006 0 P 1m
D1 1 5 X
C5 5 2 10p
C7 1 2 10p
C8 4 2 1p
R9 5 N009 315K
R10 N009 2 244K
G4 0 N005 1 0 table(1.3 1m 2.4 3m 10 4m)
G5 N005 0 N002 2 table(0 3m 1 0)
C4 1 N003 100p Rser=.01G Rpar=6G
.model PN PNP(BF=25 Cje=150p Cjc=150p Tf=10n)
.model NA NPN(BF=500K Cje=.5p Cjc=.5p Re=40)
.model NP NPN(Cje=1p Cjc=1p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=150)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.ends LT1761-2.8
*
.subckt LT1761-2 1 2 3 4 5
Q1 N006 N004 1 0 PN
Q2 N004 N008 2 0 NA
Q3 N008 N003 N011 0 NP temp=27
C1 N008 N003 12p Rser=350K
Q4 N003 N003 4 0 NP 10 temp=27
R2 4 2 12K
R3 N011 2 10K
C2 5 N003 15p
Q5 5 N009 N010 0 FB temp=27
R6 N010 4 106.8K
R5 3 2 20Meg
I1 3 2 1µ load
A1 3 2 2 2 2 2 N002 2 SCHMITT Vt=.8 Vh=1m trise=1m
G2 1 N003 N002 2 1.2µ
G1 1 N008 N002 2 1.2µ
R1 1 N004 600K
R8 N006 5 1.17
A2 N005 0 N008 N008 N008 N008 2 N008 VARISTOR
D3 0 N005 F
G3 0 N005 5 N006 10m
Q7 N003 N004 N006 0 P 1m
D1 1 5 X
C5 5 2 10p
C7 1 2 10p
C8 4 2 1p
R9 5 N009 156K
R10 N009 2 244K
G4 0 N005 1 0 table(1.3 1m 2.4 3m 10 4m)
G5 N005 0 N002 2 table(0 3m 1 0)
C4 1 N003 100p Rser=.01G Rpar=6G
.model PN PNP(BF=25 Cje=150p Cjc=150p Tf=10n)
.model NA NPN(BF=500K Cje=.5p Cjc=.5p Re=40)
.model NP NPN(Cje=1p Cjc=1p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=150)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.ends LT1761-2
*
.subckt LT1761-3.3 1 2 3 4 5
Q1 N006 N004 1 0 PN
Q2 N004 N008 2 0 NA
Q3 N008 N003 N011 0 NP temp=27
C1 N008 N003 12p Rser=350K
Q4 N003 N003 4 0 NP 10 temp=27
R2 4 2 12K
R3 N011 2 10K
C2 5 N003 15p
Q5 5 N009 N010 0 FB temp=27
R6 N010 4 106.8K
R5 3 2 20Meg
I1 3 2 1µ load
A1 3 2 2 2 2 2 N002 2 SCHMITT Vt=.8 Vh=1m trise=1m
G2 1 N003 N002 2 1.2µ
G1 1 N008 N002 2 1.2µ
R1 1 N004 600K
R8 N006 5 1.17
A2 N005 0 N008 N008 N008 N008 2 N008 VARISTOR
D3 0 N005 F
G3 0 N005 5 N006 10m
Q7 N003 N004 N006 0 P 1m
D1 1 5 X
C5 5 2 10p
C7 1 2 10p
C8 4 2 1p
R9 5 N009 415K
R10 N009 2 244K
G4 0 N005 1 0 table(1.3 1m 2.4 3m 10 4m)
G5 N005 0 N002 2 table(0 3m 1 0)
C4 1 N003 100p Rser=.01G Rpar=6G
.model PN PNP(BF=25 Cje=150p Cjc=150p Tf=10n)
.model NA NPN(BF=500K Cje=.5p Cjc=.5p Re=40)
.model NP NPN(Cje=1p Cjc=1p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=150)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.ends LT1761-3.3
*
.subckt LT1761-3 1 2 3 4 5
Q1 N006 N004 1 0 PN
Q2 N004 N008 2 0 NA
Q3 N008 N003 N011 0 NP temp=27
C1 N008 N003 12p Rser=350K
Q4 N003 N003 4 0 NP 10 temp=27
R2 4 2 12K
R3 N011 2 10K
C2 5 N003 15p
Q5 5 N009 N010 0 FB temp=27
R6 N010 4 106.8K
R5 3 2 20Meg
I1 3 2 1µ load
A1 3 2 2 2 2 2 N002 2 SCHMITT Vt=.8 Vh=1m trise=1m
G2 1 N003 N002 2 1.2µ
G1 1 N008 N002 2 1.2µ
R1 1 N004 600K
R8 N006 5 1.17
A2 N005 0 N008 N008 N008 N008 2 N008 VARISTOR
D3 0 N005 F
G3 0 N005 5 N006 10m
Q7 N003 N004 N006 0 P 1m
D1 1 5 X
C5 5 2 10p
C7 1 2 10p
C8 4 2 1p
R9 5 N009 355K
R10 N009 2 244K
G4 0 N005 1 0 table(1.3 1m 2.4 3m 10 4m)
G5 N005 0 N002 2 table(0 3m 1 0)
C4 1 N003 100p Rser=.01G Rpar=6G
.model PN PNP(BF=25 Cje=150p Cjc=150p Tf=10n)
.model NA NPN(BF=500K Cje=.5p Cjc=.5p Re=40)
.model NP NPN(Cje=1p Cjc=1p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=150)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.ends LT1761-3
*
.subckt LT1761-5 1 2 3 4 5
Q1 N006 N004 1 0 PN
Q2 N004 N008 2 0 NA
Q3 N008 N003 N011 0 NP temp=27
C1 N008 N003 12p Rser=350K
Q4 N003 N003 4 0 NP 10 temp=27
R2 4 2 12K
R3 N011 2 10K
C2 5 N003 15p
Q5 5 N009 N010 0 FB temp=27
R6 N010 4 106.8K
R5 3 2 20Meg
I1 3 2 1µ load
A1 3 2 2 2 2 2 N002 2 SCHMITT Vt=.8 Vh=1m trise=1m
G2 1 N003 N002 2 1.2µ
G1 1 N008 N002 2 1.2µ
R1 1 N004 600K
R8 N006 5 1.17
A2 N005 0 N008 N008 N008 N008 2 N008 VARISTOR
D3 0 N005 F
G3 0 N005 5 N006 10m
Q7 N003 N004 N006 0 P 1m
D1 1 5 X
C5 5 2 10p
C7 1 2 10p
C8 4 2 1p
R9 5 N009 754K
R10 N009 2 244K
G4 0 N005 1 0 table(1.3 1m 2.4 3m 10 4m)
G5 N005 0 N002 2 table(0 3m 1 0)
C4 1 N003 100p Rser=.01G Rpar=6G
.model PN PNP(BF=25 Cje=150p Cjc=150p Tf=10n)
.model NA NPN(BF=500K Cje=.5p Cjc=.5p Re=40)
.model NP NPN(Cje=1p Cjc=1p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=150)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.ends LT1761-5
*
.subckt LT1761-BYP 1 2 3 4 5
Q1 N006 N004 1 0 PN
Q2 N004 N008 2 0 NA
Q3 N008 N003 N010 0 NP temp=27
C1 N008 N003 12p Rser=350K
Q4 N003 N003 3 0 NP 10 temp=27
R2 3 2 12K
R3 N010 2 10K
C2 5 N003 15p
Q5 5 4 N009 0 FB temp=27
R6 N009 3 106.8K
A1 1 2 2 2 2 2 N001 2 SCHMITT Vt=.8 Vh=1m tau=1u
G2 1 N003 N001 2 1.2µ
G1 1 N008 N001 2 1.2µ
R1 1 N004 600K
R8 N006 5 1.17
A2 N005 0 N008 N008 N008 N008 2 N008 VARISTOR
D3 0 N005 F
G3 0 N005 5 N006 10m
Q7 N003 N004 N006 0 P 1m
D1 1 5 X
C5 4 2 1p
C6 5 2 10p
C7 1 2 10p
C8 3 2 1p
G4 0 N005 1 0 table(1.3 1m 2.4 3m 10 4m)
C4 1 N003 100p Rser=.01G Rpar=6G
.model PN PNP(BF=25 Cje=150p Cjc=150p Tf=10n)
.model NA NPN(BF=500K Cje=.5p Cjc=.5p Re=40)
.model NP NPN(Cje=1p Cjc=1p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=150)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.ends LT1761-BYP
*
.subckt LT1761-SD 1 2 3 4 5
Q1 N006 N004 1 0 PN
Q2 N004 N008 2 0 NA
Q3 N008 N003 N010 0 NP temp=27
C1 N008 N003 12p Rser=350K
Q4 N003 N003 N011 0 NP 10 temp=27
R2 N011 2 12K
R3 N010 2 10K
C2 5 N003 15p
Q5 5 4 N009 0 FB temp=27
R6 N009 N011 106.8K
R5 3 2 20Meg
I1 3 2 1µ load
A1 3 2 2 2 2 2 N002 2 SCHMITT Vt=.8 Vh=1m trise=1m
G2 1 N003 N002 2 1.2µ
G1 1 N008 N002 2 1.2µ
R1 1 N004 600K
R8 N006 5 1.17
A2 N005 0 N008 N008 N008 N008 2 N008 VARISTOR
D3 0 N005 F
G3 0 N005 5 N006 10m
Q7 N003 N004 N006 0 P 1m
D1 1 5 X
C5 4 2 1p
C6 5 2 10p
C7 1 2 10p
G4 0 N005 1 0 table(1.3 1m 2.4 3m 10 4m)
G5 N005 0 N002 2 table(0 3m 1 0)
C4 1 N003 100p Rser=.01G Rpar=6G
.model PN PNP(BF=25 Cje=150p Cjc=150p Tf=10n)
.model NA NPN(BF=500K Cje=.5p Cjc=.5p Re=40)
.model NP NPN(Cje=1p Cjc=1p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=150)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.ends LT1761-SD
